US07153878B2
3-(4-Formyl-2-methyl-phenyl)-propionic acid methyl ester
A mixture of 3-(4-Hydroxymethyl-2-methyl-phenyl)-propionic acid methyl ester (0.49 g, 2.35 mmol) and MnO2 (0.80 g, 9.20 mmol) in chloroform (5 mL) is stirred at RT for 4 days. The mixture is filtered through Celite; the Celite is washed with copious amounts of EtOAc. The filtrate is concentrated and purified by flash chromatography to yield the title compound (0.29 g, 60%).

reactant | 3-(4-Hydroxymethyl-2-methyl-phenyl)-propionic acid methyl ester | 2.35 mmol, 0.49 g | COC(CCC1=C(C=C(C=C1)CO)C)=O | C12H16O3
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | MnO2 | 9.20 mmol, 0.80 g | O=[Mn]=O
product | 3-(4-Formyl-2-methyl-phenyl)-propionic acid methyl ester | 0.29 g, 60% | COC(CCC1=C(C=C(C=C1)C=O)C)=O | C12H14O3
